Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
Carotid artery disease with interval increase in left ICA 
stenosis
 
Major Surgical or Invasive Procedure:
Left Carotid Endarterectomy

 
History of Present Illness:
This is a ___ female who was seen
through the Emergency Department in the setting of a tight
stenosis in the carotid based on a CTA. This did appear focal
and quite tight with severe stenosis. She had been having
symptoms of lightheadedness that have been progressing over
the past few weeks; however, this did not seem related to her
carotid. She was not on a statin or aspirin and was placed on
it at that time and scheduled for a carotid endarterectomy.
 
Past Medical History:
PMH:
- GERD
- depression
- cervical spondylosis (participates in chiropractic medicine)
- arthritis in hip, hand
- ___ Syndrome, s/p breast reconstruction on right

PSH:
- Right shoulder surgery
- total abdominal hysterectomy
- oral surgery

 
Social History:
___
Family History:
- positive for Alzheimer's (mother developed symptoms in ___,
died at ___ years), depression (maternal uncle and relatives),
prostate cancer (father, died at ___ years), intestinal cancer
(brother, died at ___ years) 

 
Physical Exam:
Vitals: 97.7  108/69  53  18  94%/RA
General: A&O x3, seated comfortably, NAD
HEENT: NC/AT, PERRL, MMM
Neck: left side with well approximated incision, closed with 
dermabond, no ecchymosis, or drainage, slight swelling
Abdomen: soft, non-tender
Extremities: warm and well perfused

 
Pertinent Results:
Labs-------
___ 05:40AM BLOOD WBC-10.9* RBC-3.34* Hgb-10.0* Hct-31.2* 
MCV-93 MCH-29.9 MCHC-32.1 RDW-13.2 RDWSD-45.0 Plt ___
___ 05:40AM BLOOD Plt ___
___ 05:40AM BLOOD Glucose-111* UreaN-12 Creat-0.7 Na-145 
K-4.0 Cl-106 HCO3-27 AnGap-12
___ 05:40AM BLOOD Calcium-8.5 Phos-2.2* Mg-1.7
___ 02:45PM BLOOD %HbA1c-5.6 eAG-114
___ 05:40AM BLOOD TSH-7.7*
___ 10:00AM BLOOD T4-6.7
___ 10:00AM BLOOD Cortsol-2.4

Echo-------

FINDINGS:
LEFT ATRIUM (LA)/PULMONARY VEINS: Normal LA volume index.
RIGHT ATRIUM (RA)/INTERATRIAL SEPTUM/INFERIOR VENA CAVA (IVC): 
Normal RA size. Normal
IVC diameter with normal inspiratory collapse==>RA pressure ___ 
mmHg.
LEFT VENTRICLE (LV): Normal wall thicknesses. Normal cavity 
size. Normal regional/global systolic function.
Normal global longitudinal strain (less than -20%). Low normal 
cardiac index (2.0-2.5 L/min/m2). No rest or
Valsalva induced outflow tract gradient. Transmitral and tissue 
Doppler suggest normal PCWP.
RIGHT VENTRICLE (RV): Normal cavity size. Normal free wall 
motion. Normal tricuspid annular plane
systolic excursion (TAPSE).
AORTA: Normal sinus diameter for gender. Normal ascending 
diameter for gender. Normal arch diameter.
Normal descending aorta. No coarctation. No coarctation.
AORTIC VALVE (AV): Normal/thin (?#) leaflets. No stenosis. No 
regurgitation.
MITRAL VALVE (MV): Normal leaflets. No systolic prolapse. 
Trivial regurgitation.
PULMONIC VALVE (PV): Normal leaflets. Physiologic regurgitation.

 
Brief Hospital Course:
This is a ___ female who was seen through the Emergency 
Department in the setting of a tight stenosis in the carotid 
based on a CTA. This did appear focal
and quite tight with severe stenosis. She had been having 
symptoms of lightheadedness that have been progressing over the 
past few weeks; however, this did not seem related to her 
carotid. She was not on a statin or aspirin and was placed on it 
at that time and scheduled for a carotid endarterectomy.

Patient underwent a left carotid endarterectomy on ___ with 
Dr. ___ without complication.  For full details of the 
surgical procedure please see the dictated operative report. 
After a brief stay in PACU she was transferred to the vascular 
surgery floor where she remained for the rest of her 
hospitalization.  Her diet was advanced and she was able 
tolerate a house diet. She was able to void on her own QS. 

She was monitored overnight for changes in blood pressure and 
found to be hypotensive. Although she reported chronic low blood 
pressures prior to admission her postoperative BPs of 
___ did require IV phenylephrine to maintain. She 
was evaluated by cardiology and started on PO midodrine with 
good effect.  She underwent an echo which was normal. Her 
cortisol was within  normal limits and a UA done on POD1 was 
negative.  Her TSH was found to be slightly elevated and T4 
within normal limits and she should follow up with her PCP for 
any further testing.  She is also instructed to follow up with 
PCP within one weak to start the process of weaning off of her 
midodrine.  She start to cut down the frequency of midodrine 
from 3 x/day to twice or once a day and then stop.

Patient will require follow up with a carotid duplex within 1 
month of discharge. She should continue to stay on ASA and 
atorvastatin lifelong.

Patient will have ___ services to check BP and HR during her 
first postoperative week.  She is discharged home in an improved 
and stable condition.

 
Medications on Admission:
ASA 81mg daily
Atorvastatin 80 mg daily
 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild/Fever  
2.  Docusate Sodium 100 mg PO BID  
3.  Midodrine 5 mg PO TID 
Start to wean over ___ weeks by cutting from TID to BID or daily 

RX *midodrine 5 mg 1 tablet(s) by mouth three times a day Disp 
#*40 Tablet Refills:*0 
4.  Senna 17.2 mg PO QHS  
5.  Aspirin 81 mg PO DAILY  
6.  Atorvastatin 80 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary: Carotid Stenosis, autonomic dysregulation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,

It was a pleasure taking care of you at ___ 
___.  You were admitted to the hospital after a 
carotid endarterectomy.  This surgery was done to restore proper 
blood flow to your brain.  To perform this procedure, an 
incision was made in your neck.
You tolerated the procedure well and are now ready to be 
discharged from the hospital.   Please follow the 
recommendations below to ensure a speedy and uneventful 
recovery.
Carotid Endarterectomy
Patient Discharge Instructions
 
WHAT TO EXPECT:
Bruising, tenderness, mild swelling, numbness and/or a firm 
ridge at the incision site is normal.  This will improve 
gradually in the next 2 weeks.
 
You may have a sore throat and or mild hoarseness.  Warm tea, 
throat lozenges, or cool drinks usually help.
 
It is normal to feel tired for ___ weeks after your surgery.
 
MEDICATION INSTRUCTIONS:

Before you leave the hospital, you will be given a list of all 
the medicine you should take at home.  If a medication that you 
normally take is not on the list or a medication that you do not 
take is on the list please discuss it with the team!  

It is very important that you take Aspirin every day!  You 
should never stop this medication before checking with your 
surgeon

 You should take Tylenol ___ every 6 hours, as needed for neck 
pain.  If this is not enough, take your prescription pain 
medication.  You should require less pain medication each day.  
Do not take more than a daily total of 3000mg of Tylenol.  
Tylenol is used as an ingredient in some other over-the-counter 
and prescription medications.  Be aware of how much Tylenol you 
are taking in a day.

Narcotic pain medication can be very constipating.  If you take 
narcotics,  please also take a stool softener such as Colace.   
If constipation becomes a problem, your pharmacist can suggest 
an additional over the counter laxative. 
 
CARE OF YOUR NECK INCISION:
 
You may shower 48 hours after your procedure.  Avoid direct 
shower spray to the incision.  Let soapy water run over the 
incision, then rinse and gently pat the area dry.  Do not scrub 
the incision.  
 
Your neck incision may be left open to air and uncovered unless 
you have a small amount of drainage at the site.  If drainage is 
present, place a small sterile gauze over the incision and 
change the gauze daily.
 
Do not take a bath or go swimming for 2 weeks.
 
ACTIVITY:
 
Do not drive for one week after your procedure.  Do not ever 
drive after taking narcotic pain medication.
 
You should not push, pull, lift or carry anything heavier than 5 
pounds for the next 2 weeks. 

 After 2 weeks, you may return to your regular activities 
including exercise, sexual activitiy and work.
 
DIET:
 
It is normal to have a decreased appetite.  Your appetite will 
return over time.  Follow a well-balanced, heart healthy diet, 
with moderate restriction of salt and fat.
 
SMOKING:
 
If you smoke, it is very important for you to stop.  Research 
has shown that smoking makes vascular disease worse.  Talk to 
your primary care physician about ways to quit smoking.
 
The ___ Smokers' Helpline is a FREE and confidential 
way to get support and information to help you quit smoking.  
Call ___
 
 
CALLING FOR HELP
 
If you need help, please call us at ___.  Remember your 
doctor, or someone covering for your doctor is available 24 
hours a day, 7 days a week.  If you call during non-business 
hours, you will reach someone who can help you reach the 
vascular surgeon on call. 
 
To get help right away, call ___.
 
Call the surgeon right away for:
•headache that is not controlled with pain medication or 
headache that is getting worse
•fever of 101 degrees or more
•bleeding from the incision, or drainage the is new or 
increased, or drainage that is white yellow or green
•pain that is not relieved with medication, or pain that is 
getting worse instead of better
 
If you notice any of the following signs of stroke, call ___ to 
get help right away.
•sudden numbness or weakness of the face, arm or leg 
(especially on one side of the body)
•sudden confusion, trouble speaking or trouble understanding 
speech
•trouble seeing in one or both eyes
•sudden trouble walking, dizziness, loss of balance or 
coordination
•sudden severe headache with no known cause

 
Followup Instructions:
___